US05011947
3,3-Bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propanol
Diisobutylaluminum hydride (20 mL of 1M solution, 20 mmol) was added to a solution of ethyl 3,3-bis(4-fluorophenyl)-2-(1,1dimethylethyl)propionate (2.0 g, 5.8 mmol) in 20 mL of methylene chloride at -70° C. The solution was stirred at -70° C. for 4 hours and at -10° C. for 18 hours. The solution was hydrolyzed by addition of 2N hydrochloric acid. The aqueous layer was separated and extracted with methylene chloride. The combined organic portions were dried with magnesium sulfate and concentrated in vacuo. The residue was crystallized from hexane to give 1.3 g of the title compound; m.p. =106°-108° C.

reactant | Diisobutylaluminum hydride | 20 mmol, 1M, 20 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3,3-bis(4-fluorophenyl)-2-(1,1dimethylethyl)propionate | 5.8 mmol, 2.0 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)C(C)(C)C)C1=CC=C(C=C1)F | C21H24F2O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propanol | 1.3 g | FC1=CC=C(C=C1)C(C(CO)C(C)(C)C)C1=CC=C(C=C1)F | C19H22F2O
